US06376655B1
1.95 g (0.006 mol) of ethyl 2-[4(4-cyanophenylazo)phenoxy]-ethanoate was dissolved in a mixture of 100 mL of dimethylformamide and 20 mL of water in a 250 mL one-neck round flask fitted with a magnetic stirring bar and a reflux condenser by heating to 90° C. while stirring on an oil bath. 1.3 g (0.033 mol) of NaOH was added. Stirring and heating were continued for ½ h. After cooling on an ice-water bath 6 mL of 6 N HCl was added. The precipitated crude product was recovered by filtration. The precipitate was suspended in a mixture of 10 mL of ethanol and 3 mL of water for 15 min. and filtered. The filtercake was washed with 10 mL of cold ethanol. After drying under vacuum overnight 1.17 g (yield 69%) of 2-[4-(4-cyanophenylazo)phenoxy]-ethanoic acid was obtained

reactant | ethyl 2-[4(4-cyanophenylazo)phenoxy]-ethanoate | 0.006 mol, 1.95 g | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(OCC(=O)OCC)C=C1 | C17H15N3O3
reactant | NaOH | 0.033 mol, 1.3 g | [OH-].[Na+]
reactant | HCl | 6 N, 6 mL | Cl | ClH
solvent | dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 2-[4-(4-cyanophenylazo)phenoxy]-ethanoic acid | 1.17 g, yield 69% | C(#N)C1=CC=C(C=C1)N=NC1=CC=C(OCC(=O)O)C=C1 | C15H11N3O3
